US04038396
A mixture of 0.12 mole of 2-t-butyl-6-methylphenol and 12.0 ml. of 10.0 N sodium hydroxide solution is stirred and heated on the steam bath for 1 hour. The water is evaporated in vacuo. The residue is added portion-wise with stirring to 0.24 mole of dimethylsulfate and the mixture is stirred at 95° C. for 6 hours and at room temperature for 15 hours. Sodium carbonate (0.25 mole) in 100 ml. of water is added and stirring is continued for 5 hours. The mixture is extracted with 3 × 100 ml. of ether and the extract is dried and concentrated to dryness to give 3-t-butyl-2-methoxytoluene.

reactant | 2-t-butyl-6-methylphenol | 0.12 mole | C(C)(C)(C)C1=C(C(=CC=C1)C)O | C11H16O
reactant | sodium hydroxide | 10.0 N | [OH-].[Na+]
reactant | dimethylsulfate | 0.24 mole | COS(=O)(=O)OC | C2H6O4S
reactant | Sodium carbonate | 0.25 mole | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 3-t-butyl-2-methoxytoluene | C(C)(C)(C)C=1C(=C(C=CC1)C)OC | C12H18O
